US09376433B2
A mixture of 2-(4-bromo-phenylethynyl)-benzoic acid methyl ester (1.24 g, 3.95 mmol) and polyphosphoric acid (16 g) is heated to 80° C. and stirred at this temperature for 20 hours. The reaction mixture is allowed to cool to room temperature and water is added. The resulting precipitate is filtered off, washed with water and dried under vacuum to afford 3-(4-bromo-phenyl)-isochromen-1-one as brown powder; HPLC/MS 2.18 min (A), [M+H] 301/303.

reactant | 2-(4-bromo-phenylethynyl)-benzoic acid methyl ester | 3.95 mmol, 1.24 g | COC(C1=C(C=CC=C1)C#CC1=CC=C(C=C1)Br)=O | C16H11BrO2
solvent | water | O | H2O
product | 3-(4-bromo-phenyl)-isochromen-1-one | BrC1=CC=C(C=C1)C=1OC(C2=CC=CC=C2C1)=O | C15H9BrO2
